US06596738B1
Under nitrogen, to a stirred solution of ethyl 3-(5-benzyloxy-1-methylindol-3-yl)propionate (12.0 g, 35.6 mmol) in dichloromethane (120 ml) was added dropwise 1.0 M DIBAL in hexane (37.4 ml, 35.6 mmol) at −78° C. (dry-ice/acetone) for 25 minutes. After 30 minutes, methanol (5.7 ml) was added dropwise at −78° C. and then the mixture was stirred at room temperature for 30 minutes. The mixture was filtered through Celite and washed with dichloromethane. The filtrate was concentrated in vacuo and then the residue was purified by silica gel (90 g) chromatography eluted with toluene/ethyl acetate (10:1 to 5:1) to give 3-(5-benzyloxy-1-methylindol-3-yl)propionaldehyde (8.03 g, 77.0%)

reactant | ethyl 3-(5-benzyloxy-1-methylindol-3-yl)propionate | 35.6 mmol, 12.0 g | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)C)CCC(=O)OCC | C21H23NO3
reactant | DIBAL | 1.0 M | CC(C)C[AlH]CC(C)C
reactant | hexane | 35.6 mmol, 37.4 ml | CCCCCC | C6H14
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | methanol | 5.7 ml | CO | CH4O
product | 3-(5-benzyloxy-1-methylindol-3-yl)propionaldehyde | 8.03 g, 77.0% | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)C)CCC=O | C19H19NO2
